US06080785
a) (±)-Trans-N-benzyl-1,2-diaminocyclohexane
60.0 g (525.4 mmol) of (±)-trans-1,2-diaminocyclohexane is dissolved in 750 ml of absolute methanol and cooled to 0° C. At this temperature, the drop-by-drop addition of 10.5 g (99 mmol) of benzaldehyde, dissolved in 100 ml of absolute methanol, is carried out. After a reaction time of 2 hours at 0° C., the addition in portions of a total of 3.74 g (99 mmol) of sodium borohydride is carried out. After 12 hours at 25° C., the reaction solution is suctioned off on diatomaceous earth, and the solvent is drawn off in a vacuum. The remaining oily residue is taken up in 500 ml of dichloromethane and washed three times with 100 ml of water each. After the organic phase is dried on sodium sulfate, the solvent is drawn off in a vacuum. The oily residue that is thus obtained is chromatographed on silica gel (eluant: methanol/aqueous ammonia solution 20:1).

reactant | (±)-trans-1,2-diaminocyclohexane | 525.4 mmol, 60.0 g | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | benzaldehyde | 99 mmol, 10.5 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 99 mmol, 3.74 g | [BH4-].[Na+]
solvent | methanol | 750 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | (±)-Trans-N-benzyl-1,2-diaminocyclohexane | C(C1=CC=CC=C1)N[C@H]1[C@@H](CCCC1)N | C13H20N2
